US08304417B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (Route 2)
A mixture of potassium tert-butoxide (5.42 g) and THF (30 ml) was added to a solution of 4-hydroxytetrahydropyran (1.53 ml) in THF (30 ml) and the resultant mixture was stirred for 20 minutes. A slurry of 4-(6-chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline hydrochloride salt (6 g) in THF (30 ml) was added and the resultant mixture was heated to reflux for 1.75 hours. A second portion (1.81 g) of potassium tert-butoxide was added and the mixture was heated to reflux for an additional 2 hours. A second portion (0.15 ml) of 4-hydroxytetrahydropyran and a third portion (0.45 g) of potassium tert-butoxide were added and the mixture was heated to reflux for 0.5 hours. A fourth portion (0.9 g) of potassium tert-butoxide was added and the mixture was heated to reflux for a further 20 minutes. The resultant reaction mixture was allowed to cool to 50° C. and brine (60 ml) and water (30 ml) were added in turn. The layers were separated and the aqueous solution was extracted in turn with THF (30 ml) and with isopropyl acetate (30 ml). The organic extracts were combined and washed with brine (30 ml). The organic solution was evaporated. The residual solid was stirred for 1 hour under a mixture of methyl tert-butyl ether (24 ml) and isohexane (12 ml). The solid was isolated, washed with a 1:1 mixture of methyl tert-butyl ether and isohexane and dried in vacuo overnight at 40° C. There was thus obtained 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (5.02 g, 93% HPLC purity using Method A, retention time 4.61 minutes). A portion (3 g) of the material so obtained was dissolved in hot ethyl acetate (54 ml). The hot solution was filtered. The filtrate was allowed to cool to ambient temperature and was stirred for 3 hours. The resultant solid was isolated by filtration, and dried in vacuo at ambient temperature. There was thus obtained 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (1.61 g, 99.2% HPLC purity using Method A, retention time 4.51 minutes); NMR Spectrum: (DMSOd6) 1.9-2.0 (m, 2H), 2.1-2.2 (m, 2H), 3.5-3.6 (m, 2H), 3.8-3.95 (m, 2H), 5.1 (m, 1H), 6.1 (s, 2H), 6.95 (d, 1H), 7.1 (d, 1H), 7.2 (d, 1H), 7.3 (d, 1H), 8.4 (s, 1H), 9.3 (s, 1H).

reactant | potassium tert-butoxide | 5.42 g | CC(C)([O-])C.[K+]
reactant | 4-hydroxytetrahydropyran | 1.53 ml | OC1CCOCC1 | C5H10O2
reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline hydrochloride salt | 6 g | Cl.ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)F)F)OCO2
reactant | potassium tert-butoxide | 1.81 g | CC(C)([O-])C.[K+]
reactant | 4-hydroxytetrahydropyran | 0.15 ml | OC1CCOCC1 | C5H10O2
reactant | potassium tert-butoxide | 0.45 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.9 g | CC(C)([O-])C.[K+]
reactant | water | 30 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | brine | 60 ml | [Cl-].[Na+].O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline | 3 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)F)OCO2 | C20H17ClFN3O4
